Kolos 3

.LIB "EVAL_TOS.LIB"

Vdd VDD 0 5
Vin VIN 0 PULSE 0 5 0 0 0 1
*SIN 707.033m {ampl} 100k

I1 G 0 {iref}

M1 1 G VDD VDD PMOS0P5 W=15u L=0.3u
M2 2 G VDD VDD PMOS0P5 W=15u L=0.3u
M3 G G 1 VDD PMOS0P5 W=15u L=0.3u
M4 VOUT G 2 VDD PMOS0P5 W=15u L=0.3u
M5 VOUT VIN 0 0 NMOS0P5 W={w} L=0.3u

C1 0 VOUT 200p

*.DC Vin 705m 709m 0.1u
*.AC DEC 100 1f 1MEG
.TRAN 0 4n 0 1p
.PARAM iref = 1u
.PARAM ampl = 1.1m
.PARAM w = 30
.STEP PARAM w 41u 50u 1u
*.STEP PARAM ampl 1m 2m 0.1m
*.STEP PARAM iref 0.1u 100u 10u
*max dla iref = 100n/0.1u
*kv dla Vin=707.033m to -2.1815K
*3db cutoff - 992.13193k
*<2% THD dla 1.1m
* Rin 1e+20, Rout 6.927e+06
*w=45u
*.FOUR 100k V[VOUT]
.PROBE
*.TF V[VOUT] Vin
.END