Kolos2zad1

.LIB "EVAL_TOS.LIB"

Xwo IN_P IN_N VCC VEE OUT TL082

VCC VCC 0 15
VEE 0 VEE 15
V_P IN_P 0 0
V_N IN_N 0 0
Vr OUT 0 1

*.AC DEC 1k 1 1k
.TF V(Vr) Vr
.PROBE
.END