Laby6

.LIB "EVAL_TOS.LIB"

Vdd VDD 0 5
Vin IN 0 SIN 4.1826 {amp} 10k ; Vin IN 0 3.5 AC 1

I1 VDD 1 1u

M1 1 1 0 0 NMOS0P5 W=5u L=2u
M2 OUT 1 0 0 NMOS0P5 W=5u L=2u
M3 OUT IN VDD VDD PMOS0P5 W=100u L=1u

.PARAM amp = 0
.STEP PARAM amp 0 10m 1m

*.DC Vin 4.15 4.2 0.1m
*.AC DEC 100 1f 100T
.TRAN 0 0.5m 0 1u
.FOUR 10k V[OUT]
.PROBE
.END

*3.5V - odciêcia/4.5V - liniowy
*Vout=2.5V dla Vin=4.1826
*max kv=-729.75982/kv w ^=-540.108
*3db cutoff = 997.94688k/3db cutoff highpass = 2.18625g
*THD<5% dla 60mV ampl?????? almbo 2m???????