K1

R1 1 2 {opor} 
*TC=0.01

C1 0 2 159n 
*TC=-0.002

V1 0 1 AC 1

.OP
.AC DEC 1k 1 1meg
.PARAM opor = 1k
.STEP DEC PARAM opor 100 10k 2
*.TEMP 0 40 80 120
*.TRAN 1m 4m 0 1u
*.FOUR 1k V(1) V(2)
.PROBE V(2)
.END