Kolos 2 pop

.LIB "EVAL_TOS.LIB"

X IN_P IN_N VCC VEE OUT TL082
VCC VCC 0 15
VEE 0 VEE 15

V_P IN_P 0 AC 1
V_N IN_N 0 0

Vth OUT 0 1

*.DC V_P -150u 150u 1u
*.AC DEC 1k 1f 1k.
.TF V[OUT] Vth
.PROBE
.END
*zakres wejsciowy: -70u - 50u
*zakres wyjsciowy: -13 - 13
*k_v: 229.422k
*3db cutoff: 14.98698
*r_out: 3.010E+02