Zesp 1

R1 1 0 5
R2 4 0 5

*C1 5 2 0.00159

L1 2 3 0.159

V1 2 1 AC 20
V2 4 5 AC 10 -90
V3 4 3 AC 10 90

*RTH 5 2 1f

ITH 5 2 0

I3 0 4 AC 5

.AC LIN 1 10 10
.PRINT AC V(2,5)
*VM(C1)
.TF V(2,5) ITH
.END